.SUBCKT gf180mcu_fd_sc_mcu9t5v0__oai33_1 A1 A2 A3 B1 B2 B3 ZN VDD VDD VSS VSS
*.PININFO A1:I A2:I A3:I B1:I B2:I B3:I ZN:O VDD:P VDD:P VSS:P VSS:G
*.EQN ZN=!(((A1 + A2) + A3) * ((B1 + B2) + B3))
M_i_5 net_0 B3 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_4 VSS B2 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_3 net_0 B1 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0 ZN A1 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1 net_0 A2 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2 ZN A3 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_11 net_4 B3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_10 net_3 B2 net_4 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_9 ZN B1 net_3 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6 net_1 A1 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7 net_2 A2 net_1 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_8 VDD A3 net_2 VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
